US05830885
To a solution of 2-methyl-2-hydroxy-3-butyne (1.68 mL, 20 mmol), and 2,6-lutidine (11 mL, 5 eq) in 15 mL of, was added TBDMSOTf (5 mL, 1.1 eq) dropwise at 0° C. After being stirred for 10 min, the reaction mixture was diluted with ether (100 mL) and then quenched with water. The solution was washed with 5%-HCl solution (×2) and the aqueous layer was extracted with ether (100 mL). The combined solution was washed with saturated aqueous NaHCO3, brine, dried over NaSO4, concentrated in vacuo and then purified by chromatography (2% ether/hexane) to give 2.02 g (50%) of (1,1 dimethyl) [(1,1-dimethyl-2-propoxy)oxy]dimethylsilane as a colorless oil. To a solution of (1,1-dimethyl) [(1,1-dimethyl-2-propoxy)oxy]dimethylsilane (1.87 g, 9.5 mmol) in 10 mL of THF, was added 6.1 mL (10.4 mmol, 1.1 eq) of 1.6M n-BuLi solution in hexane dropwise at -78° C. for 10 min. After being stirred for 10 min, 2 mL (26 mmol) of anhydrous DMF was added to the mixture at -78° C. After 15 min, the reaction was quenched with 1.3 mL (20 mmol) of acetic acid and then allowed to warm to -20° C. The mixture was extracted with hexane (50 mL), and the aqueous layer was extracted with hexane (50 mL). The combined organic extracts were washed with aqueous NH4Cl solution (×2), brine, dried over NaSO4, concentrated in vacuo and then purified by chromatography (10% ether/hexane) to give 1.73 g (81%) of 4-[[(1,1-dimethylethyl)-dimethysilyl]oxy]4-methyl2-pentynal 11 as a colorless oil. (M. Okabe; R. Sun; M. Scalone; C. H. Jibilian; S. D. Hutchings. J. Org. Chem. 1995, 60, 767-771, incorporated herein by reference).

reactant | 2-methyl-2-hydroxy-3-butyne | 20 mmol, 1.68 mL | CC(C)(C#C)O | C5H8O
reactant | 2,6-lutidine | 11 mL, 5 eq | N1=C(C=CC=C1C)C | C7H9N
reactant | TBDMSOTf | 5 mL, 1.1 eq | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | ether | 100 mL | CCOCC | C4H10O
product | (1,1 dimethyl) [(1,1-dimethyl-2-propoxy)oxy]dimethylsilane | 2.02 g, 50% | C[Si](C)(COOC(C(C)C)C)C | C9H22O2Si
